### PR TITLE
feat(CategoryTheory): relate equivalences and skeletons

### PR DESCRIPTION
**Pull request by Zeta-Wu**
This PR supersedes the previously closed PR #42789.

It adds several related characterizations of equivalences of categories, together with an API showing that an equivalence induces an isomorphism between the corresponding skeletons.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Skeletal.lean [hunk 1]
```diff
@@ -203,8 +256,46 @@ lemma mapSkeleton_injective [F.Full] [F.Faithful] : Function.Injective F.mapSkel
...
+    F.IsEquivalence ↔ ∃ e : IsoCat (Skeleton C) (Skeleton D), e.functor = F.mapSkeleton := by
+  constructor
+  · intro F_isEquiv
+    use F.mapSkeleton.asIsomorphism
+    rfl
+  · rintro ⟨e,e_functor_eq_mapSkeleton⟩
+    refine @Functor.isEquivalence_of_comp_right _ _ _ _ _ _ F (toSkeletonFunctor D)
+      (inferInstance) ?_
+    refine @isEquivalence_of_iso _ _ _ _ _ _ (toSkeletonFunctorCompMapSkeletonIso F) ?_
+    exact @Functor.isEquivalence_trans _ _ _ _ _ _ (toSkeletonFunctor C) (F.mapSkeleton)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Skeletal.lean]: I already pointed out that we should avoid such syntax.

File: Mathlib/CategoryTheory/Equivalence.lean [hunk 2]
```diff
@@ -698,6 +700,17 @@ lemma isEquivalence_of_comp_left {E : Type*} [Category* E] (F : C ⥤ D) (G : D
...
+/-- A functor is an equivalence (i.e. fully faithful and essentially surjective) iff it is the
+functor of a bundled equivalence. -/
+theorem isEquivalence_iff_exists_equivalence (F : C ⥤ D) :
+    F.IsEquivalence ↔ ∃ e : C ≌ D, e.functor = F := by
+  constructor
+  · intro _
+    use F.asEquivalence
+    rfl
+  · rintro ⟨e,e_functor_eq_F⟩
+    exact e_functor_eq_F ▸ inferInstance
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Equivalence.lean]: I don’t think this is necessary to have: the idiomatic thing is to use `F.asEquivalence`.
Statement bundling propositional equality of functors like this should be avoided when possible.

File: Mathlib/CategoryTheory/Skeletal.lean [hunk 3]
```diff
@@ -203,8 +256,46 @@ lemma mapSkeleton_injective [F.Full] [F.Faithful] : Function.Injective F.mapSkel
...
 
+instance mapSkeleton_isIso_of_isEquivalence [F.IsEquivalence] : F.mapSkeleton.IsIso where
+  faithful := inferInstance
+  full := inferInstance
+  bijective_obj := ⟨F.mapSkeleton_injective, F.mapSkeleton_surjective⟩
+
+/-- A functor is an equivalence if and only if its induced functor on skeletons is a categorical
+isomorphism. -/
+theorem isEquivalence_iff_exists_isoCat_mapSkeleton :
+    F.IsEquivalence ↔ ∃ e : IsoCat (Skeleton C) (Skeleton D), e.functor = F.mapSkeleton := by
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Skeletal.lean]: same thing: we should avoid propositional equality here if possible, `F.mapSkeleton.IsIso` is a more reasonable RHS for this Iff.

File: Mathlib/CategoryTheory/Skeletal.lean (hunk 1 above)
Comment (Zeta-Wu) [reply Mathlib/CategoryTheory/Skeletal.lean]: OK, I'll avoid that. I used `refine` to preserve the backward-reading structure of the proof, but that led me to `refine @` because of implicit arguments. I'll rewrite it using a few intermediate `have`s instead and do a forward proof.

File: Mathlib/CategoryTheory/Equivalence.lean (hunk 2 above)
Comment (Zeta-Wu) [reply Mathlib/CategoryTheory/Equivalence.lean]: I added it mainly as an expository statement: it explicitly records the mathematical characterization that a functor is fully faithful and essentially surjective iff it is the functor of some bundled equivalence, whereas `F.asEquivalence` is a construction. But I understand that `F.asEquivalence` is the idiomatic API, so I am happy to remove this theorem if it is not considered useful enough.

File: Mathlib/CategoryTheory/Skeletal.lean (hunk 3 above)
Comment (Zeta-Wu) [reply Mathlib/CategoryTheory/Skeletal.lean]: Thanks, fixed.

File: Mathlib/CategoryTheory/Skeletal.lean (hunk 1 above)
Comment (Zeta-Wu) [reply Mathlib/CategoryTheory/Skeletal.lean]: Done. The code is following:
```
theorem isEquivalence_iff_mapSkeletonIsIso :
    F.IsEquivalence ↔ F.mapSkeleton.IsIso := by
  constructor
  · intro _
    infer_instance
  · intro h_mapSkeleton_isIso
    have h₀ : F.mapSkeleton.IsEquivalence := inferInstance
    have h₁ : (toSkeletonFunctor C ⋙ F.mapSkeleton).IsEquivalence := inferInstance
    have h₂ : (F ⋙ toSkeletonFunctor D).IsEquivalence :=
      isEquivalence_of_iso (toSkeletonFunctorCompMapSkeletonIso F)
    exact isEquivalence_of_comp_right F (toSkeletonFunctor D)
```
The lines `h₀` and `h₁` can be entirely deleted but I keep them for readers. I'm not sure how mathlib community see it, but I am happy to delete them if they are considered useless. (I am not sure how lean infer `h₁`, but it works, I can also prove `h₁` in a more obvious way if you think it is better for readers.)

**Comment by Zeta-Wu** [comment]
-awaiting-author

File: Mathlib/CategoryTheory/Skeletal.lean [hunk 4]
```diff
@@ -40,6 +72,23 @@ variable {E : Type u₃} [Category.{v₃} E]
...
+    let e : (C ≌ D) := F.asEquivalence
+    refine Functor.IsIso.mk inferInstance inferInstance ?_
+    refine Function.bijective_iff_has_inverse.mpr ?_
+    use e.inverse.obj
+    constructor
+    · intro X
+      exact (hC ⟨e.unitIso.app X⟩).symm
+    · intro Y
+      exact hD ⟨e.counitIso.app Y⟩
+  · exact fun _ => F.asIsomorphism.toEquivalence.isEquivalence_functor
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Skeletal.lean]:
```suggestion
theorem Functor.isEquivalence_iff_isIso_of_skeletal
    (F : C ⥤ D) (hC : Skeletal C) (hD : Skeletal D) : F.IsEquivalence ↔ F.IsIso :=
  ⟨fun _ ↦
    { bijective_obj :=
        Function.bijective_iff_has_inverse.mpr ⟨F.inv.obj,
          fun _ ↦ hC ⟨F.asEquivalence.unitIso.symm.app _⟩,
          fun _ ↦ hD ⟨F.asEquivalence.counitIso.app _⟩⟩ },
    fun _ ↦ inferInstance⟩
```

File: Mathlib/CategoryTheory/Skeletal.lean [hunk 5]
```diff
@@ -203,8 +256,45 @@ lemma mapSkeleton_injective [F.Full] [F.Faithful] : Function.Injective F.mapSkel
...
+    F.IsEquivalence ↔ F.mapSkeleton.IsIso := by
+  constructor
+  · intro _
+    infer_instance
+  · intro h_mapSkeleton_isIso
+    have h₀ : F.mapSkeleton.IsEquivalence := inferInstance
+    have h₁ : (toSkeletonFunctor C ⋙ F.mapSkeleton).IsEquivalence := inferInstance
+    have h₂ : (F ⋙ toSkeletonFunctor D).IsEquivalence :=
+      isEquivalence_of_iso (toSkeletonFunctorCompMapSkeletonIso F)
+    exact isEquivalence_of_comp_right F (toSkeletonFunctor D)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Skeletal.lean]:
```suggestion
theorem isEquivalence_iff_mapSkeletonIsIso :
    F.IsEquivalence ↔ F.mapSkeleton.IsIso :=
  ⟨fun _ ↦ inferInstance, fun _ ↦
    have : (F ⋙ toSkeletonFunctor D).IsEquivalence :=
      isEquivalence_of_iso (toSkeletonFunctorCompMapSkeletonIso F)
    isEquivalence_of_comp_right F (toSkeletonFunctor D)⟩
```

File: Mathlib/CategoryTheory/Equivalence.lean (hunk 2 above)
Comment (joelriou) [inline Mathlib/CategoryTheory/Equivalence.lean]:
```suggestion
    F.IsEquivalence ↔ ∃ e : C ≌ D, e.functor = F :=
  ⟨fun _ ↦ ⟨F.asEquivalence, rfl⟩, by rintro ⟨_, rfl⟩; infer_instance⟩
```

File: Mathlib/CategoryTheory/Skeletal.lean [hunk 6]
```diff
@@ -203,8 +256,45 @@ lemma mapSkeleton_injective [F.Full] [F.Faithful] : Function.Injective F.mapSkel
...
+
+/-- The following are equivalent for a functor `F : C ⥤ D`: `F` is an equivalence; `F` is the
+functor of a bundled equivalence `C ≌ D`; and the induced functor on skeletons is an isomorphism.
+-/
+theorem tfae_isEquivalence_bundledEquivalence_mapSkeletonIsIso :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Skeletal.lean]: I do not think we need this lemma.

File: Mathlib/CategoryTheory/Skeletal.lean [hunk 7]
```diff
@@ -203,8 +256,45 @@ lemma mapSkeleton_injective [F.Full] [F.Faithful] : Function.Injective F.mapSkel
...
+  tfae_have 1 ↔ 3 := isEquivalence_iff_mapSkeletonIsIso F
+  tfae_finish
+
 end Functor
 
+/-- An equivalence of categories induces an isomorphism between their skeletons. -/
+noncomputable def Equivalence.skeletonIsoCat (e : C ≌ D) : IsoCat (Skeleton C) (Skeleton D) :=
+  e.functor.mapSkeleton.asIsomorphism
+
+-- TODO(Zeta-Wu): define `Equivalence.skeletonEquiv` via `Equivalence.skeletonIsoCat`.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Skeletal.lean]: Could you try to do this in this PR?

Comment (Zeta-Wu) [reply Mathlib/CategoryTheory/Skeletal.lean]: No problem.

Comment (Zeta-Wu) [reply Mathlib/CategoryTheory/Skeletal.lean]: Done. It only appears in `EssentiallySmall.lean`, I have replaced them with the new API. Then I redefine `skeletonEquiv` and then mark it as deprecated.

File: Mathlib/CategoryTheory/Skeletal.lean [hunk 8]
```diff
@@ -203,16 +246,32 @@ lemma mapSkeleton_injective [F.Full] [F.Faithful] : Function.Injective F.mapSkel
...
-noncomputable def Equivalence.skeletonEquiv (e : C ≌ D) : Skeleton C ≃ Skeleton D :=
-  let f := ((skeletonEquivalence C).trans e).trans (skeletonEquivalence D).symm
-  { toFun := f.functor.obj
-    invFun := f.inverse.obj
-    left_inv := fun X => skeleton_skeletal C ⟨(f.unitIso.app X).symm⟩
-    right_inv := fun Y => skeleton_skeletal D ⟨f.counitIso.app Y⟩ }
+@[deprecated "use `Equivalence.skeletonIsoCat` together with `.functor.objEquiv`"
+  (since := "2026-08-16")]
+noncomputable abbrev Equivalence.skeletonEquiv (e : C ≌ D) : Skeleton C ≃ Skeleton D :=
+  e.skeletonIsoCat.functor.objEquiv
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Skeletal.lean]: I was thinking about `e.skeletonIsoCat.objEquiv`.

**Comment by Zeta-Wu** [comment]
-awaiting-author

File: Mathlib/CategoryTheory/Skeletal.lean (hunk 8 above)
Comment (Zeta-Wu) [reply Mathlib/CategoryTheory/Skeletal.lean]: Good idea! My bad. Fixed now. Also fixed downstream usage.

File: Mathlib/CategoryTheory/Equivalence.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Equivalence.lean]: Could you remove it?

Comment (Zeta-Wu) [reply Mathlib/CategoryTheory/Equivalence.lean]: Sure.

**Comment by Zeta-Wu** [comment]
-awaiting-author

File: Mathlib/CategoryTheory/Skeletal.lean [hunk 9]
```diff
@@ -40,6 +68,17 @@ variable {E : Type u₃} [Category.{v₃} E]
 def Skeletal : Prop :=
   ∀ ⦃X Y : C⦄, IsIsomorphic X Y → X = Y
 
+/-- A functor between skeletal categories is an equivalence if and only if it is an isomorphism.
+-/
+theorem Functor.isEquivalence_iff_isIso_between_skeletal
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Skeletal.lean:73]:
```suggestion
theorem Functor.isEquivalence_iff_isIso_of_skeletal
```

File: Mathlib/CategoryTheory/Skeletal.lean [hunk 10]
```diff
@@ -203,16 +246,32 @@ lemma mapSkeleton_injective [F.Full] [F.Faithful] : Function.Injective F.mapSkel
 lemma mapSkeleton_surjective [F.EssSurj] : Function.Surjective F.mapSkeleton.obj :=
   fun Y ↦ let ⟨X, h⟩ := EssSurj.mem_essImage F.mapSkeleton Y; ⟨X, skeleton_skeletal D h⟩
 
+instance mapSkeleton_isIso_of_isEquivalence [F.IsEquivalence] : F.mapSkeleton.IsIso where
+  faithful := inferInstance
+  full := inferInstance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Skeletal.lean:251]: These two lines should not be necessary.

File: Mathlib/CategoryTheory/Skeletal.lean [hunk 11]
```diff
@@ -203,16 +246,32 @@ lemma mapSkeleton_injective [F.Full] [F.Faithful] : Function.Injective F.mapSkel
...
+    F.IsEquivalence ↔ F.mapSkeleton.IsIso :=
+  ⟨fun _ ↦ inferInstance, fun _ ↦
+    have : (F ⋙ toSkeletonFunctor D).IsEquivalence :=
+      isEquivalence_of_iso (toSkeletonFunctorCompMapSkeletonIso F)
+    isEquivalence_of_comp_right F (toSkeletonFunctor D)⟩
+
 end Functor
 
+/-- An equivalence of categories induces an isomorphism between their skeletons. -/
+noncomputable def Equivalence.skeletonIsoCat (e : C ≌ D) : IsoCat (Skeleton C) (Skeleton D) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Skeletal.lean:266]: Basically, all definitions involving functors or objects of categories in their fields should be declared `implicit_reducible`:
```suggestion
@[implicit_reducible]
noncomputable def Equivalence.skeletonIsoCat (e : C ≌ D) : IsoCat (Skeleton C) (Skeleton D) :=
```

**Comment by joelriou** [comment]
Note: the description of the PR does not need to be that long. I think that the sentence "It adds several related characterizations of equivalences of categories, together with an API showing that an equivalence induces an isomorphism between the corresponding skeletons." would be enough.

**Comment by Zeta-Wu** [comment]
-awaiting-author
